### PR TITLE
[Merged by Bors] - feat(Analysis/CStarAlgebra): a continuous linear functional `f` is monotone iff `‖f‖ = f 1`

### PR DESCRIPTION
**Pull request by themathqueen**
We show that a continuous linear functional `f` on a non-unital C⋆-algebra is
monotone if `f` tendsto `‖f‖` along any/some approximate unit. Therefore, when
the algebra is unital, `f` is monotone if and only if `‖f‖ = f 1`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/CStarAlgebra/GelfandNaimarkSegal.lean
Comment (themathqueen) [inline Mathlib/Analysis/CStarAlgebra/GelfandNaimarkSegal.lean:1]: Or this could go in a new file `PositiveLinearFunctional` that privately imports the GNS.

Comment (themathqueen) [reply Mathlib/Analysis/CStarAlgebra/GelfandNaimarkSegal.lean:1]: Or it could go in the `CStarAlgebra/PositiveLinearMap` file, but with a much longer and annoying proof.

**Comment by j-loreaux** [comment]
There's a non-unital version of this too, so we should do that instead. The limit of the norm of the evaluation of `f` at any approximate unit is the norm of `f`. You can then deduce this as a corollary.

There's a nice approach in Huaxin Lin's book that I've been meaning to write up. Also, I'm tempted to have this result only in LeanOA for now, since we have `PositiveContinuousLinearMap` there, and we should have a constructor for that instead.

**Comment by themathqueen** [comment]
Sounds good, I'll work on the non-unital version later. And yeah, let's just keep this in LeanOA for the time being, but I think we should still have `PositiveLinearMap.toContinuousLinearMap`?

File: Mathlib/Analysis/CStarAlgebra/PositiveLinearFunctional.lean [hunk 1]
```diff
@@ -0,0 +1,125 @@
...
+
+public import Mathlib.Analysis.CStarAlgebra.ApproximateUnit
+public import Mathlib.Topology.Algebra.Module.ContinuousLinearMap.Positive
+
+import Mathlib.Analysis.CStarAlgebra.GelfandNaimarkSegal
+
+/-! # Characterization of positive continuous linear functionals on C⋆-algebras
+
+In this file we show that a continious linear functional `f` on a C⋆-algebra is monotone iff
+`‖f‖ = f 1`. -/
```
Comment (j-loreaux) [inline Mathlib/Analysis/CStarAlgebra/PositiveLinearFunctional.lean]:
```suggestion
In this file we show that a continuous linear functional `f` on a non-unital C⋆-algebra is
monotone if `f` tendsto `‖f‖` along any/some approximate unit. Therefore, when
the algebra
is unital, `f` is monotone if and only if `‖f‖ = f 1`. -/
```

File: Mathlib/Analysis/CStarAlgebra/PositiveLinearFunctional.lean [hunk 2]
```diff
@@ -0,0 +1,125 @@
...
+public section
+
+open ComplexOrder Topology Filter Complex CStarRing
+
+variable {A : Type*} [NonUnitalCStarAlgebra A] [PartialOrder A] [StarOrderedRing A]
+
+namespace PositiveContinuousLinearMap
+
+theorem norm_apply_le_sqrt_opNorm_mul (f : A →P[ℂ] ℂ) (x : A) :
+    ‖f x‖ ≤ √‖(f : A →L[ℂ] ℂ)‖ * √‖f (star x * x)‖ := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/CStarAlgebra/PositiveLinearFunctional.lean]: Maybe just for convenience we can have the `‖f x‖ ^ 2` version of this too? And maybe `nnnorm` versions as well since this this is such a standard estimate, but takes some small amount of work to get.

File: Mathlib/Analysis/CStarAlgebra/PositiveLinearFunctional.lean [hunk 3]
```diff
@@ -0,0 +1,125 @@
...
+    l.Tendsto (f ·) (𝓝 ‖(f : A →L[ℂ] ℂ)‖) := by
+  suffices l.Tendsto (‖f ·‖) (𝓝 ‖f.toContinuousLinearMap‖) from this.ofReal.congr' <| by
+    filter_upwards [hl.eventually_nonneg] using by simp_all [norm_of_nonneg' (f.map_nonneg _)]
+  refine Metric.tendsto_nhds.mpr fun ε hε ↦ ?_
+  have h : ∀ᶠ x in l, ‖f x‖ ≤ ‖f.toContinuousLinearMap‖ + ε / 2 := by
+    filter_upwards [hl.eventually_norm] with x hx
+    grw [← f.coe_toContinuousLinearMap, ContinuousLinearMap.le_opNorm, hx, mul_one]
+    grind
+  have h2 : ∀ᶠ x in l, ‖f.toContinuousLinearMap‖ - ε / 2 < ‖f x‖ := by
+    obtain ⟨_, ⟨a, ha1, rfl⟩, ha2⟩ := exists_lt_of_lt_csSup (b := ‖f.toContinuousLinearMap‖ - ε / 4)
```
Comment (j-loreaux) [inline Mathlib/Analysis/CStarAlgebra/PositiveLinearFunctional.lean]:
```suggestion
  refine Metric.nhds_basis_closedBall.tendsto_right_iff.mpr fun ε hε ↦ ?_
  have h : ∀ᶠ x in l, ‖f x‖ ≤ ‖f.toContinuousLinearMap‖ := by
    filter_upwards [hl.eventually_norm] using f.toContinuousLinearMap.unit_le_opNorm
  have h2 : ∀ᶠ x in l, ‖f.toContinuousLinearMap‖ - ε ≤ ‖f x‖ := by
    obtain ⟨_, ⟨a, ha1, rfl⟩, ha2⟩ := exists_lt_of_lt_csSup (b := ‖f.toContinuousLinearMap‖ - ε / 2)
```

File: Mathlib/Analysis/CStarAlgebra/PositiveLinearFunctional.lean [hunk 4]
```diff
@@ -0,0 +1,125 @@
...
+        refine CStarAlgebra.norm_le_norm_of_le_of_nonneg ?_
+        exact f.mono <| hx1.star_eq.symm ▸ CStarAlgebra.mul_self_le_of_nonneg_of_norm_le_one hx1 hx2
+      conv_lhs => rw [← hx1.star_eq, ← f.coe_toPositiveLinearMap]
+      grw [PositiveLinearMap.cauchy_schwarz_star_mul _ x a, mul_pow, Real.sq_sqrt (norm_nonneg _),
+        Real.sq_sqrt (norm_nonneg _), f.coe_toPositiveLinearMap, this,
+        ← f.coe_toContinuousLinearMap, f.toContinuousLinearMap.le_opNorm (star a * a),
+        CStarRing.norm_star_mul_self, ← mul_assoc]
+      refine mul_le_of_le_one_right (by positivity) ?_
+      grw [mem_closedBall_zero_iff.mp ha1, mem_closedBall_zero_iff.mp ha1, one_mul]
+    have h4 : ∀ᶠ x in l, ‖f.toContinuousLinearMap‖ - ε / 4 < ‖f (x * a)‖ := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/CStarAlgebra/PositiveLinearFunctional.lean]:
```suggestion
    have h4 : ∀ᶠ x in l, ‖f.toContinuousLinearMap‖ - ε / 2 < ‖f (x * a)‖ := by
```

File: Mathlib/Analysis/CStarAlgebra/PositiveLinearFunctional.lean [hunk 5]
```diff
@@ -0,0 +1,125 @@
...
+      refine (Filter.Tendsto.norm ?_).eventually (lt_mem_nhds ha2)
+      exact (ContinuousAt.tendsto (by fun_prop)).comp (hl.tendsto_mul_right a)
+    filter_upwards [h3, h4] with x _ _ using by nlinarith [norm_nonneg (f x)]
+  filter_upwards [h, h2] using by grind [Real.dist_eq]
```
Comment (j-loreaux) [inline Mathlib/Analysis/CStarAlgebra/PositiveLinearFunctional.lean]:
```suggestion
  filter_upwards [h, h2] using by grind [Real.closedBall_eq_Icc]
```

File: Mathlib/Analysis/CStarAlgebra/PositiveLinearFunctional.lean (hunk 3 above)
Comment (j-loreaux) [reply Mathlib/Analysis/CStarAlgebra/PositiveLinearFunctional.lean]: Also, can you please factor out this `obtain` into a lemma about continuous linear maps over densely normed fields? Something like: `0 ≤ r → r < ‖f‖ → ∃ x, ‖x‖ < 1 ∧ r < ‖f x‖`.

File: Mathlib/Analysis/CStarAlgebra/PositiveLinearFunctional.lean [hunk 6]
```diff
@@ -0,0 +1,125 @@
...
+  tendsto_nhds_unique (f.tendsto_nhds_opNorm (.pure_one A)) (tendsto_pure_nhds _ _)
+
+end PositiveContinuousLinearMap
+
+namespace ContinuousLinearMap
+variable {f : A →L[ℂ] ℂ}
+
+private lemma im_apply_eq_zero_of_tendsto_nhds_opNorm {l : Filter A}
+    (hl : l.IsIncreasingApproximateUnit) (hf : l.Tendsto (f ·) (𝓝 ‖f‖)) {a : A}
+    (ha : IsSelfAdjoint a) : (f a).im = 0 := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/CStarAlgebra/PositiveLinearFunctional.lean:89]: This should have an explanation of why it is phrased this way, and private. Something like:
```suggestion
/- This lemma is only used to prove `monotone_iff_tendsto_nhds_opNorm` below,
which can be used to construct a `PositiveContinuousLinearMap`. These may use
`IsSelfAdjoint.map` to conclude the same property as this lemma, so we mark it
`private`.
 -/
private lemma im_apply_eq_zero_of_tendsto_nhds_opNorm {l : Filter A}
    (hl : l.IsIncreasingApproximateUnit) (hf : l.Tendsto (f ·) (𝓝 ‖f‖)) {a : A}
    (ha : IsSelfAdjoint a) : (f a).im = 0 := by
```

File: Mathlib/Analysis/CStarAlgebra/PositiveLinearFunctional.lean (hunk 3 above)
Comment (themathqueen) [reply Mathlib/Analysis/CStarAlgebra/PositiveLinearFunctional.lean]: Apparently, this already exists: `ContinuousLinearMap.exists_lt_apply_of_lt_opNorm`

File: Mathlib/Analysis/CStarAlgebra/PositiveLinearFunctional.lean
Comment (j-loreaux) [inline Mathlib/Analysis/CStarAlgebra/PositiveLinearFunctional.lean]: and the nnnorm version of this please.

**Review by j-loreaux — COMMENTED** [review]
Thanks!

bors d+
